US05387685
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy α-[(4-methylphenyl)thio]-2(1H)-isoquinoline tridecanenitrile
The procedure of Example 3 is repeated using 3.14 g of α-(11-bromoundecyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 2.03 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 2.2 g of the desired product as a light yellow oil.

reactant | α-(11-bromoundecyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 3.14 g | BrCCCCCCCCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C28H38BrNO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.03 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy α-[(4-methylphenyl)thio]-2(1H)-isoquinoline tridecanenitrile | 2.2 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCCCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C39H52N2O4S
